US04940710
1-Ethyl-5,6,8-trifluoro-1,4-dihydro-4-oxo-7-(1-pyrrolidinyl)-3-quinolinecarboxylic acid
A 200 mg portion of 1-ethyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid was dissolved in 1 ml of 1-methylpyrrolidine with warming. A 130 mg portion of pyrrolidine was added dropwise, the reaction was allowed to stand one hour and then diluted with ether. The solid was collected, washed with ether and hexane, dried and recrystallized from a mixture of dichloromethane-acetone, giving 140 mg of the desired product as white crystals, mp >320° C.

reactant | 1-ethyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)O | C12H7F4NO3
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | 1-methylpyrrolidine | 1 ml | CN1CCCC1 | C5H11N
solvent | ether | CCOCC | C4H10O
product | 1-Ethyl-5,6,8-trifluoro-1,4-dihydro-4-oxo-7-(1-pyrrolidinyl)-3-quinolinecarboxylic acid | 140 mg | C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CCCC1)F)F)=O)C(=O)O | C16H15F3N2O3
